Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt is a ___ M with history of HTN, DM2 c/b neuropathy, L ankle, 
chronic LBP presenting with SOB.

Pt had been on a cruise to ___ when appx 3 days ago, he 
developed acutely worsening SOB upon awakening in the AM.  Also 
notes possible URI symptoms developing 1 day PTA.  Pt states he 
also has had cough, sputum production, wheezing.  Also c/o 
orthopnea and bilateral leg swelling which is new.  Denies 
fevers/chills, n/v/d.

Of note, pt had TTE in ___ to ___ tortuous aorta seen on chest 
CT and this showed preserved EF: 70-75% with no significant 
abnormalities.

On arrival to the ED, VS: 97.8, 69, 123/90, 18, 98% RA
Labs notable for WBC: 11.3, negative trop, BNP: 250
EKG non-ischemic
CXR showing pulmonary edema
Pt given CTX/azithro, and admitted to medicine for further w/u 
and management

ROS: rest of 10-point ROS reviewed and is negative except as 
noted above.

 
Past Medical History:
HTN
DM2 c/b neuropathy
OA in L ankle and back

PAST SURGICAL HISTORY:
Parotid tumor removal
Schwannoma removal
Lap band ___

 
Social History:
___
Family History:
Parotid tumor removal
Schwannoma removal
Lap band ___

 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.0PO 125 / 70 72 20 96 4LNC
GENERAL: Obese male in NAD, speaking in full sentences
EYES: no scleral icterus, EOMI
ENT: MMM, clear OP, normal hearing
NECK: supple, JVP up at earlobe
RESP: Diffuse wheezing and rhonchi in all lung fields.  Crackles 
at bilateral bases, no respiratory distress
CV: RRR, no m/r/g
GI: obese, soft, NT/ND, +BS
GU: no foley
EXT: wwp, 2+ pitting edema in b/l ___
SKIN: no rash, no jaundice
NEURO: AOx3, no facial droop, moving all extremities with 
purpose
PSYCH: pleasant, normal mood and affect

DISCHARGE EXAM:
VITALS:98.6PO 141 / 80 71 17 95 Ra 
GENERAL: Obese male in NAD, speaking in full sentences
EYES: no scleral icterus, EOMI
ENT: MMM, clear OP, normal hearing
NECK: supple, no JVD
RESP: CTA B/l, no respiratory distress
CV: RRR, no m/r/g
GI: obese, soft, NT/ND, +BS
GU: no foley
EXT: wwp, 1+ pitting edema in b/l ___
SKIN: no rash, no jaundice
NEURO: AOx3, no facial droop, moving all extremities with 
purpose
PSYCH: pleasant, normal mood and affect 
 
Pertinent Results:
ADMISSION LABS:
=============
___ 04:35AM BLOOD WBC-11.3* RBC-4.83 Hgb-15.3 Hct-46.1 
MCV-95 MCH-31.7 MCHC-33.2 RDW-13.6 RDWSD-47.7* Plt ___
___ 04:35AM BLOOD Neuts-77.5* Lymphs-11.3* Monos-9.5 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-8.78* AbsLymp-1.28 
AbsMono-1.08* AbsEos-0.02* AbsBaso-0.02
___ 04:35AM BLOOD Glucose-123* UreaN-30* Creat-0.9 Na-137 
K-6.1* Cl-102 HCO3-25 AnGap-16
___ 04:35AM BLOOD Calcium-8.5 Phos-3.9 Mg-1.9

IMAGING:  
========
CXR ___: 
1. Wedge-shaped retrocardiac opacity most likely represents 
atelectasis 
although. 
2. Cardiomegaly and pulmonary vascular congestion 
3. COPD 
4. Probable trace bilateral pleural effusions 

DISCHARGE LABS:
==============
___ 09:10AM BLOOD WBC-8.6 RBC-5.37 Hgb-16.4 Hct-50.7 MCV-94 
MCH-30.5 MCHC-32.3 RDW-13.4 RDWSD-47.1* Plt ___
___ 09:10PM BLOOD Glucose-184* UreaN-32* Creat-1.1 Na-137 
K-4.1 Cl-93* HCO3-35* AnGap-13
___ 09:10PM BLOOD Calcium-9.6 Phos-4.0 Mg-2.___SSESSMENT/PLAN:
___ M with hx of HTN, DM2,c/b neuropathy and OA presenting with 
acute SOB, likely HFpEF exacerbation iso dietary indiscretion 
with possible component of RAD exacerbation.

# SOB
# HFpEF exacerbation
Pt with SOB, wheezing, elevated JVD, peripheral edema, and 
pulmonary infiltrates on CXR c/w acute HFpEF exacerbation likely 
___ dietary indiscretion given pt's recent cruise.  Was diuresed 
on the cruise without much improvement but may have been 
slightly underdiuresed.  He was started IV Lasix 40mg with good 
output (appx net negative 2L/24 hours).  TTE was ordered but not 
done given the weekend and pt elected to have it performed 
shortly after discharge.  He will be discharged on 40mg Lasix 
for 5 more days as he was felt to still be slightly hypervolemic 
on discharge but otherwise asymptomatic and sat'ing well on RA.  
He will call his PCP on ___ morning to arrange for close ___. 
 He was otherwise continued on his home BB and ___.

# ?RAD exacerbation
Pt also reports cough preceding symptoms of SOB with sputum 
production and diffuse wheezing on exam.  Possible wheezing 
could be attributed to cardiac wheeze, but as pt has been on 
inhalers in the past, suspect possible component of RAD/COPD 
given his extensive smoking history.  He was treated with 
prednisone burst, nebs, and azithro with improvement in wheezing 
and symptoms.

# DM2 c/b neuropathy: Home metformin held and ISS started.  
Continued home gabapentin

# OA: Held home meloxicam until PCP ___, started Tylenol prn OA 
pain

TRANSITIONAL:
============
[ ] Pt needs OP TTE, ordered in ___, but pt would prefer it done 
in ___ if possible.  Will call his PCP to see if this can be 
changed.  
[ ] Consider PFT's to evaluate for COPD given possible reactive 
airway disease exacerbation on admission.  
[ ] Also continue to encourage complete smoking cessation

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. meloxicam 7.5 mg oral BID 
2. Gabapentin 600 mg PO TID 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Metoprolol Tartrate 100 mg PO BID 
5. Losartan Potassium 50 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0 
2.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
RX *albuterol sulfate [Ventolin HFA] 90 mcg 2 puff inhaled every 
4 hours Disp #*2 Inhaler Refills:*0 
3.  Azithromycin 500 mg PO Q24H Duration: 5 Doses 
RX *azithromycin 500 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
4.  Furosemide 40 mg PO DAILY Duration: 5 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth every day Disp #*5 
Tablet Refills:*0 
5.  PredniSONE 50 mg PO DAILY Duration: 5 Days 
RX *prednisone 50 mg 1 tablet(s) by mouth daily Disp #*2 Tablet 
Refills:*0 
6.  Gabapentin 600 mg PO TID  
7.  Losartan Potassium 50 mg PO DAILY  
8.  MetFORMIN (Glucophage) 500 mg PO BID  
9.  Metoprolol Tartrate 100 mg PO BID  
10. HELD- meloxicam 7.5 mg oral BID  This medication was held. 
Do not restart meloxicam until you discuss this with your PCP, 
it may worsen fluid retention

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CHF exacerbation (unknown recent EF)
Viral URI
Exacerbation of reactive airway disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with shortness of breath.  We think this may have 
been due to a combination of a viral respiratory infection 
causing bronchitis/COPD flare and a congestive heart failure 
exacerbation caused by eating too much salt on your cruise.  We 
treated you for both and you improved.

We have scheduled you for an outpatient echocardiogram to be 
done within 7 days.  It is currently scheduled at ___.  
However, if you would like to change it to be done at ___, 
please call your PCP or the ___ lab at ___ to 
see if the referral can be transferred.

Please also discuss with your PCP if formal testing for COPD 
with pulmonary function testing would be helpful.

Please continue taking all of your medications as prescribed and 
return if you have worsening shortness of breath, chest pain, 
swelling in your legs, or if you have any other concerns.

It was a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___